US04956382
N-Methyl-N-(6-nitroquinol-2-ylmethyl)-4-nitrophenethylamine
N-Methyl-4-nitrophenethylamine (0.39 g, 2.15 mmole) and 2-chloromethyl-6-nitroquinoline (0.40 g, 2.1 mmole) were heated at reflux temperature in ethanol (30 ml) for 6 hours. The solvent was then evaporated and the residue diluted with 2M hydrochloric acid and extracted with methylene chloride. The aqueous layer was basified with aqueous sodium carbonate (to pH~12) and extracted three times with methylene chloride. These latter organic extracts were combined, dried (MgSO4) and evaporated giving an oil which was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 1%). The product-containing fractions were combined and evaporated to give a solid which was recrystallised from ethanol to give the title compound, yield 0.21 g, m.p. 104°-105°.

reactant | N-Methyl-4-nitrophenethylamine | 2.15 mmole, 0.39 g | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | 2-chloromethyl-6-nitroquinoline | 2.1 mmole, 0.40 g | ClCC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H7ClN2O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-Methyl-N-(6-nitroquinol-2-ylmethyl)-4-nitrophenethylamine | CN(CC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-])CCC1=CC=C(C=C1)[N+](=O)[O-] | C19H18N4O4
